US04009170
A mixture of 1-ethoxy-3,4-dihydroisoquinoline (1.0 g.), hydrazine monohydrochloride (0.4 g.) and absolute ethanol (15 ml.) was heated under reflux (for 40 min.). The solution was cooled, filtered and concentrated and the residue was recrystallized from ethanol-ether, affording 1-hydrazino-3,4-dihydroisoquinoline hydrochloride (0.9 g., m.p. 205°-207° C.). C. A mixture of 1-hydrazino-3,4-dihydroisoquinoline (8.0 g.), acetaldehyde (20 ml.) and ethanol (20 ml.) was allowed to stand at room temperature (for 45 min). Ethanolic sulfuric acid was added until the solution was distinctly acidic. Ether was added. The resulting oil crystallized and the crystals were recrystallized from ethanol-ether, affording 1-(2-ethylidenehydrazino)-3,4-dihydroisoquinoline (I: X=CH3, X'=Y=Y'=Z=Z'=H) sulfate in two crops (8.3 g., m.p. 152°-154° C.; 0.5 g., m.p. 152°-155° C.).

reactant | 1-ethoxy-3,4-dihydroisoquinoline | 1.0 g | C(C)OC1=NCCC2=CC=CC=C12 | C11H13NO
reactant | hydrazine monohydrochloride | 0.4 g | Cl.NN
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | 1-hydrazino-3,4-dihydroisoquinoline hydrochloride | 0.9 g | Cl.N(N)C1=NCCC2=CC=CC=C12 | InChI=1S/C9H11N3.ClH/c10-12-9-8-4-2-1-3-7(8)5-6-11-9;/h1-4H,5-6,10H2,(H,11,12);1H
